
*1.1.31

V1 in 0 PULSE(0 5 0 1ns 1ns 0.5s 1s)
R1 in x 1k
L1 x 0 10m

.control
tran 0.01us 50us
let Ch1 = v(in) - v(x)
let Ch2 = -v(x)
plot Ch1 Ch2
.endc

